### PR TITLE
[Merged by Bors] - feat(CategoryTheory/Topos): add representability results for subobject classifier

### PR DESCRIPTION
**Pull request by Champitoad**
We add a section `Representability` at the end of `Mathlib.CategoryTheory.Topos.Classifier` where we formalize the necessary lemmas and definitions that lead to the proof of `CategoryTheory.isRepresentable_hasClassifier_iff`, which states that a category `C` has a subobject classifier if and only if the subobjects presheaf `CategoryTheory.Subobject.presheaf C` is representable (Proposition 1 in Section I.3 of Sheaves in Geometry and Logic [MM92]). The toughest part is found in definition `CategoryTheory.Classifier.fromRepresentation`, which formalizes as closely as possible the argument given in [MM92, pp. 33-34].

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/Topos/Classifier.lean [hunk 1]
```diff
@@ -180,4 +196,279 @@ instance reflectsIsomorphismsOp (D : Type u₀) [Category.{v₀} D] (F : Cᵒᵖ
...
+       side yield a pullback rectangle (lemma `Subobject.pullback_comp`). -/
+    homEquiv_comp := by
+      intro X X' f g
+      dsimp
+      simp [compr, pullback_comp]
+  }
+
+/-- Any representation `Ω` of `sub` gives a classifier with truth values object `Ω`. -/
+noncomputable def fromRepresentation (Ω : C) (h : (Subobject.presheaf C).RepresentableBy Ω) :
+    Classifier C := by
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Topos/Classifier.lean:299]: This definition should be split in several separate definitions/lemmas, all taking `h : (Subobject.presheaf C).RepresentableBy Ω` as a variable.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean:299]: I am currently in the process of doing that, but I wonder if I should make all the definitions `private` to avoid leaking them in the API?

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean:299]: Also this adds quite some noise as I need to inline `h` as an explicit argument everywhere, but maybe in Mathlib style that is preferable to a long proof with local `let` definitions.

Comment (joelriou) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: A possibility is to add an abbreviation `SubobjectRepresentableBy X :=  (Subobject.presheaf C).RepresentableBy X` and to define everything in the `SubobjectRepresentableBy` namespace. I do not think we need that many private definitions.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: I understand how putting things in a separate namespace avoids putting `private` modifiers everywhere, but I don't get the purpose of the `SubobjectRepresentableBy` abbreviation. Is it supposed to help in avoiding explicit mention of `h` when using the various intermediate definitions?

Comment (joelriou) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: I do not see how having a variable `h` is a problem. Using a namespace permits dot notation, which may contribute having a compact syntax.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: I specifically asked about the `SubobjectRepresentableBy` abbreviation, which I still don't understand the purpose.

Regarding the variable `h`, the problem is that I need to pass around `h` explicitly to every use of a definition that depends on it, which I did not need to do in the "inlined" version with local `let` definitions. For instance `ɸ x` becomes `ɸ h x`. You can take a look at the code and see four yourself: it works, but it's more verbose than previously, and arguably makes statements harder to read.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: By the way I have tried declaring `h` as an implicit variable, but somehow the type inference gets stuck when I do that.

Comment (joelriou) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: Again: I do not see how having a variable `h` is a problem.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: Well I cannot be clearer, sorry. I am not the reviewer anyway, so if you're satisfied with the changes can we just go through?

File: Mathlib/CategoryTheory/Topos/Classifier.lean [hunk 2]
```diff
@@ -180,4 +196,309 @@ instance reflectsIsomorphismsOp (D : Type u₀) [Category.{v₀} D] (F : Cᵒᵖ
...
+      left_inv := cmap_compr
+      right_inv := compr_cmap
+    }
+    /- Furthermore, this bijection is natural by the fact that two pullback squares placed side by
+       side yield a pullback rectangle (lemma `Subobject.pullback_comp`). -/
+    homEquiv_comp := by
+      intro X X' f g
+      dsimp
+      simp [compr, pullback_comp]
+  }
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Topos/Classifier.lean:299]: I do not think we need separate definitions `cmap` and `compr`. The following lemmas seems to be relevant additions to the `Classifier` API:
```lean
variable {C : Type u} [Category.{v} C] [HasTerminal C] [HasPullbacks C]
  (𝒞 : Classifier C)

lemma surjective_χ {X : C} (φ : X ⟶ 𝒞.Ω) :
    ∃ (Z : C) (i : Z ⟶ X) (_ : Mono i), φ = 𝒞.χ i :=
  ⟨Limits.pullback φ 𝒞.truth, pullback.fst _ _, inferInstance, 𝒞.uniq _ _ (by
    convert IsPullback.of_hasPullback φ 𝒞.truth
    apply Subsingleton.elim)⟩

@[simp]
lemma pullback_χ_obj_mk_truth {Z X : C} (i : Z ⟶ X) [Mono i] :
    (Subobject.pullback (𝒞.χ i)).obj (.mk 𝒞.truth) = .mk i :=
  Subobject.pullback_obj_mk (𝒞.isPullback i).flip

@[simp]
lemma χ_pullback_obj_mk_truth_arrow {X : C} (φ : X ⟶ 𝒞.Ω) :
    𝒞.χ ((Subobject.pullback φ).obj (.mk 𝒞.truth)).arrow = φ := by
  obtain ⟨Z, i, _, rfl⟩ := 𝒞.surjective_χ φ
  refine (𝒞.uniq _ _ ?_).symm
  apply (IsPullback.of_hasPullback 𝒞.truth (𝒞.χ i)).flip.of_iso
    (underlyingIso _).symm (Iso.refl _) (Iso.refl _) (Iso.refl _)
    ?_ (Subsingleton.elim _ _) (by simp) (by simp)
  dsimp
  rw [Iso.eq_inv_comp, comp_id, underlyingIso_hom_comp_eq_mk]
  rfl

/-- Any subobject classifier `Ω` represents the subobjects functor `sub`. -/
noncomputable def representableBy :
    (Subobject.presheaf C).RepresentableBy 𝒞.Ω where
  homEquiv := {
    toFun φ := (Subobject.pullback φ).obj (Subobject.mk 𝒞.truth)
    invFun x := 𝒞.χ x.arrow
    left_inv φ := by simp
    right_inv x := by simp
  }
  homEquiv_comp _ _ := by simp [pullback_comp]
```

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean:299]: Thanks for your suggestions. Just a question: for my own understanding, I found it conceptually clearer to name explicitly each direction of the bijection, with the docstring explaining the intuition wrt. to the set-theoretical concepts of characteristic map and definition by comprehension. Do you think this could still be valuable? 

Your code seems quite concise and idiomatic, but I am not sure I understand how it fits better into the `Classifier` API. Would really appreciate it if you could explain further.

Comment (joelriou) [reply Mathlib/CategoryTheory/Topos/Classifier.lean:299]: As `χ` is a field of `Classifier`, the lemma `Classifier.surjective_χ` is obviously relevant in terms of the development of the `Classifier API`, and as the code above shows, it is helpul in order to get `representableBy`.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean]: Okay thanks! I have implemented the changes.

File: Mathlib/CategoryTheory/Topos/Classifier.lean [hunk 3]
```diff
@@ -180,4 +196,279 @@ instance reflectsIsomorphismsOp (D : Type u₀) [Category.{v₀} D] (F : Cᵒᵖ
...
+end RepresentableBy
+
+/-! #### From representations to classifiers -/
+
+section FromRepresentation
+
+variable {C : Type u} [Category.{v} C] [HasPullbacks C]
+variable {Ω : C} (h : (Subobject.presheaf C).RepresentableBy Ω)
+
+namespace SubobjectRepresentableBy
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Topos/Classifier.lean:281]: I would suggest introducing the following general definitions:
```lean
namespace Subobject

variable {C} {X Y : C} [HasPullbacks C]

lemma isPullback_aux (f : X ⟶ Y) (y : Subobject Y) :
    ∃ φ, IsPullback φ ((pullback f).obj y).arrow y.arrow f := by
  obtain ⟨A, i, _⟩ := y.mk_surjective
  sorry

noncomputable def pullbackπ (f : X ⟶ Y) (y : Subobject Y) :
    ((Subobject.pullback f).obj y : C) ⟶ (y : C) :=
  (isPullback_aux f y).choose

lemma isPullback (f : X ⟶ Y) (y : Subobject Y) :
    IsPullback (pullbackπ f y) ((pullback f).obj y).arrow y.arrow f :=
  (isPullback_aux f y).choose_spec

end Subobject
```
and then I did not encounter type theory issues:
```lean
variable {C : Type u} [Category.{v} C] [HasPullbacks C] (Ω : C)

abbrev SubobjectRepresentableBy := (Subobject.presheaf C).RepresentableBy Ω

variable {Ω} (h : SubobjectRepresentableBy Ω)

namespace SubobjectRepresentableBy

/-- The subobject of `Ω` which corresponds to the identity of `𝟙 Ω`,
given `h : SubobjectRepresentableBy Ω`. -/
def Ω₀ : Subobject Ω := h.homEquiv (𝟙 Ω)

nonrec def homEquiv {X : C} : (X ⟶ Ω) ≃ Subobject X := h.homEquiv

nonrec lemma homEquiv_comp {X Y : C} (f : X ⟶ Y) (g : Y ⟶ Ω) :
    h.homEquiv (f ≫ g) = (Subobject.pullback f).obj (h.homEquiv g) :=
  h.homEquiv_comp f g

lemma homEquiv_eq {X : C} (f : X ⟶ Ω) :
    h.homEquiv f = (Subobject.pullback f).obj h.Ω₀ := by
  simpa using h.homEquiv_comp f (𝟙 _)

lemma pullback_homEquiv_symm_obj_Ω₀ {X : C} (x : Subobject X) :
    (Subobject.pullback (h.homEquiv.symm x)).obj h.Ω₀ = x := by
  rw [← homEquiv_eq, Equiv.apply_symm_apply]

section

variable {U X : C} (m : U ⟶ X) [Mono m]

def χ : X ⟶ Ω := h.homEquiv.symm (Subobject.mk m)

noncomputable def iso : MonoOver.mk' m ≅
    Subobject.representative.obj ((Subobject.pullback (h.χ m)).obj h.Ω₀) :=
  (Subobject.representativeIso (.mk' m)).symm ≪≫ Subobject.representative.mapIso
    (eqToIso (h.pullback_homEquiv_symm_obj_Ω₀ (.mk m)).symm)

noncomputable def π : U ⟶ Subobject.underlying.obj h.Ω₀ :=
  (h.iso m).hom.left ≫ Subobject.pullbackπ (h.χ m) h.Ω₀

@[reassoc (attr := simp)]
lemma iso_inv_left_π :
    (h.iso m).inv.left ≫ h.π m = Subobject.pullbackπ (h.χ m) h.Ω₀ := by
  dsimp only [π]
  rw [← Over.comp_left_assoc]
  convert Category.id_comp _ using 2
  exact (MonoOver.forget _ ⋙ Over.forget _ ).congr_map (h.iso m).inv_hom_id

@[reassoc (attr := simp)]
lemma iso_inv_left_comp :
    (h.iso m).inv.left ≫ m =
      ((Subobject.pullback (h.χ m)).obj h.Ω₀).arrow :=
  MonoOver.w (h.iso m).inv

lemma isPullback {U X : C} (m : U ⟶ X) [Mono m] :
    IsPullback m (h.π m) (h.χ m) h.Ω₀.arrow := by
  fapply (Subobject.isPullback (h.χ m) h.Ω₀).flip.of_iso
    (((MonoOver.forget _ ⋙ Over.forget _).mapIso (h.iso m)).symm) (Iso.refl _)
    (Iso.refl _) (Iso.refl _)
  all_goals simp [MonoOver.forget]

variable {m}
lemma uniq {χ' : X ⟶ Ω} {π : U ⟶ h.Ω₀}
    (sq : IsPullback m π χ' h.Ω₀.arrow) : χ' = h.χ m := by
  apply h.homEquiv.injective
  simp only [χ, Equiv.apply_symm_apply, homEquiv_eq]
  simpa using Subobject.pullback_obj_mk sq.flip

end

noncomputable def isTerminalΩ₀ : IsTerminal (h.Ω₀ : C) :=
  IsTerminal.ofUniqueHom (fun X ↦ h.π (𝟙 X)) (fun X π' ↦ by
    have : IsPullback (𝟙 X) π' (π' ≫ h.Ω₀.arrow) h.Ω₀.arrow :=
      { w := by simp
        isLimit' := ⟨PullbackCone.IsLimit.mk _ (fun s ↦ s.fst) (by simp)
          (fun s ↦ by rw [← cancel_mono h.Ω₀.arrow, ← s.condition, Category.assoc])
          (fun s m hm _ ↦ by simpa using hm) ⟩ }
    rw [← cancel_mono h.Ω₀.arrow, h.uniq this,
      ← (h.isPullback (𝟙 X)).w, Category.id_comp])

include h in
lemma hasTerminal : HasTerminal C := h.isTerminalΩ₀.hasTerminal

variable [HasTerminal C]

noncomputable def isoΩ₀ : (h.Ω₀ : C) ≅ ⊤_ C :=
  h.isTerminalΩ₀.conePointUniqueUpToIso (limit.isLimit _)

noncomputable def classifier : Classifier C where
  Ω := Ω
  truth := h.isoΩ₀.inv ≫ h.Ω₀.arrow
  χ m _ := h.χ m
  isPullback m _ :=
    (h.isPullback m).of_iso (Iso.refl _) (Iso.refl _) h.isoΩ₀ (Iso.refl _)
      (by simp) (Subsingleton.elim _ _) (by simp) (by simp)
  uniq {U X} m _ χ' sq := by
    have : IsPullback m (h.isTerminalΩ₀.from U) χ' h.Ω₀.arrow :=
      sq.of_iso (Iso.refl _) (Iso.refl _) (h.isoΩ₀.symm) (Iso.refl _)
        (by simp) (h.isTerminalΩ₀.hom_ext _ _) (by simp) (by simp)
    exact h.uniq this

end SubobjectRepresentableBy
```

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean:281]: Thanks for the contribution. Now I see what you meant when you mentioned using dot notation; it does make things slightly more readable, although we still need to mention `h` explicitly. Overall I must admit that many of your changes look like black magic to me, but it works and indeed avoids problems with dependent types.

File: Mathlib/CategoryTheory/Subobject/Basic.lean [hunk 4]
```diff
@@ -558,6 +557,38 @@ theorem pullback_obj {X Y : C} (f : Y ⟶ X) (x : Subobject X) :
...
+lemma isPullback_aux (f : X ⟶ Y) (y : Subobject Y) :
+    ∃ φ, IsPullback φ ((pullback f).obj y).arrow y.arrow f := by
+  obtain ⟨A, i, ⟨_, rfl⟩⟩ := mk_surjective y
+  rw [pullback_obj]
+  exists (underlyingIso (pullback.snd (mk i).arrow f)).hom ≫ pullback.fst (mk i).arrow f
+  exact IsPullback.of_iso (IsPullback.of_hasPullback (mk i).arrow f)
+        (underlyingIso (pullback.snd (mk i).arrow f)).symm (Iso.refl _) (Iso.refl _) (Iso.refl _)
+        (by simp) (by simp) (by simp) (by simp)
+
+/-- `pullbackπ f y` is the first projection in the following pullback square:
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Subobject/Basic.lean:569]: Could you make the docstring easier to understand out of context: this is what appears when we hover over this definition, so that we should understand this is about `Subobject.pullback`.

File: Mathlib/CategoryTheory/Topos/Classifier.lean [hunk 5]
```diff
@@ -28,23 +28,30 @@ Let `C` refer to a category with a terminal object.
...
 
 ## TODO
 
-* Exhibit the equivalence between having a classifier and the functor `B => Subobject B`
-  being representable.
-
-* Make API for constructing a subobject classifier without reference to limits (replacing
-  `⊤_ C` with an arbitrary `Ω₀ : C` and including the assumption `mono truth`)
+* Make API for constructing a subobject classifier without reference to limits (replacing `⊤_ C`
+  with an arbitrary `Ω₀ : C` and including the assumption `mono truth`)
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Topos/Classifier.lean:54]: I believe this can now be removed as `SubobjectRepresentableBy.classifier` essentially does that.

Comment (Champitoad) [reply Mathlib/CategoryTheory/Topos/Classifier.lean:54]: It still requires that `Ω₀` be a representing object for `Subobject.presheaf` though. I think what @CharredLee had in mind was that we should include `Ω₀` (and a proof of `Mono truth`) in the `Classifier` structure, so that one can still build a subobject classifier with this API, but without requiring the [HasTerminal C] instance (which indeed is a corollary of `Classifier.representableBy` composed with `SubobjectRepresentableBy.classifier`).

File: Mathlib/CategoryTheory/Subobject/Basic.lean [hunk 6]
```diff
@@ -558,6 +557,38 @@ theorem pullback_obj {X Y : C} (f : Y ⟶ X) (x : Subobject X) :
...
+lemma isPullback_aux (f : X ⟶ Y) (y : Subobject Y) :
+    ∃ φ, IsPullback φ ((pullback f).obj y).arrow y.arrow f := by
+  obtain ⟨A, i, ⟨_, rfl⟩⟩ := mk_surjective y
+  rw [pullback_obj]
+  exists (underlyingIso (pullback.snd (mk i).arrow f)).hom ≫ pullback.fst (mk i).arrow f
+  exact IsPullback.of_iso (IsPullback.of_hasPullback (mk i).arrow f)
+        (underlyingIso (pullback.snd (mk i).arrow f)).symm (Iso.refl _) (Iso.refl _) (Iso.refl _)
+        (by simp) (by simp) (by simp) (by simp)
+
+/-- `Subobject.pullbackπ f y` is the first projection in the following pullback square:
```
Comment (joelriou) [inline Mathlib/CategoryTheory/Subobject/Basic.lean:569]: Again, reading the docstring, we do not know what is `y`?

**Comment by joelriou** [comment]
Thanks!

bors merge
